US04983606
Working as described in Example 3 but replacing 2-[2chloroethyl]-6,7-dimethoxy-1(2H)-phthalazinone with an equivalent amount of 2-(2-chloroethyl)-1(2H)-phthalazinone and replacing N-phenyl piperazine with an equivalent amount of 4-(4-fluorobenzoyl)-piperidine, 2-{2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-ethyl}-1(2H)-phthalazinone hydrochloride is obtained (m.p. 230°-250° C., from ethyl alcohol/ethyl ether).

reactant | 2-[2chloroethyl]-6,7-dimethoxy-1(2H)-phthalazinone | ClCCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | C12H13ClN2O3
reactant | 2-(2-chloroethyl)-1(2H)-phthalazinone | ClCCN1C(C2=CC=CC=C2C=N1)=O | C10H9ClN2O
reactant | N-phenyl piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-(4-fluorobenzoyl)-piperidine | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | ethyl alcohol ethyl ether | C(C)O.C(C)OCC
product | 2-{2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-ethyl}-1(2H)-phthalazinone hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(C3=CC=CC=C3C=N2)=O)C=C1 | InChI=1S/C22H22FN3O2.ClH/c23-19-7-5-16(6-8-19)21(27)17-9-11-25(12-10-17)13-14-26-22(28)20-4-2-1-3-18(20)15-24-26;/h1-8,15,17H,9-14H2;1H
